US08476451B2
1.11 Synthesis of dimethylamino-acetic acid pentafluorophenyl ester (18)
To a 0.40 M solution of N,N-dimethylglycine (82.0 mg, 0.800 mmol) in EtOAc (2.00 mL, filtered through activated alumina) were added pentafluorophenol (162 mg, 0.880 mmol) and 1,3-dicyclohexylcarbodiimide (182 mg, 0.88 mmol). The reaction mixture was stirred for 12 h at rt at which time it was filtered (washing with EtOAc) and concentrated. Ester 18 was used immediately without further purification.

reactant | N,N-dimethylglycine | 0.800 mmol, 82.0 mg | CN(CC(=O)O)C | C4H9NO2
reactant | pentafluorophenol | 0.880 mmol, 162 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | 1,3-dicyclohexylcarbodiimide | 0.88 mmol, 182 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | EtOAc | 2.00 mL | CCOC(=O)C | C4H8O2
product | dimethylamino-acetic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(CN(C)C)=O)F)F)F)F | C10H8F5NO2
